US07378418B2
Preparation of 2-(4-(Trifluoromethyl)benzyl)-5-benzyl-7,8-bis(4-chlorophenyl)-6-methyl-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a solution of 2-(4-(trifluoromethyl)benzyl)-7,8-bis(4-chlorophenyl)-6-methyl-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (15 mg, 0.028 mmol) prepared as described in Example 469 in DMF (0.5 mL) at RT was added K2CO3 (11.6 mg, 0.084 mmol), followed by benzyl bromide (9.6 mg, 0.056 mmol). The reaction was heated at 80° C. for overnight. The reaction was filtered. The collected solution was concentrated under educed pressure. The crude product was purified using reverse phase HPLC to give the title compound, 2-(4-(Trifluoromethyl)benzyl)-5-benzyl-7,8-bis(4-chlorophenyl)-6-methyl-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (2 mg, 11%) as a white solid. HPLC retention time: 4.44 min; MS [M+H]+: found 621. 1H NMR (CDCl3, 400 MHz) δ 7.60 (d, 2H), 7.45 (d, 2H), 7.33-7.29 (m, 5H), 7.23-7.13 (m, 4H), 7.05-7.00 (m, 2H), 6.87-6.81 (m, 2H), 5.04 (s, 2H), 4.26-4.15 (m, 2H), 3.98-3.93 (q, 1H), 1.30 (d, 3H).

reactant | 2-(4-(trifluoromethyl)benzyl)-7,8-bis(4-chlorophenyl)-6-methyl-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.028 mmol, 15 mg | FC(C1=CC=C(CN2N=C3N(NC(C(=C3C3=CC=C(C=C3)Cl)C3=CC=C(C=C3)Cl)C)C2=O)C=C1)(F)F | C26H19Cl2F3N4O
reactant | K2CO3 | 0.084 mmol, 11.6 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 0.056 mmol, 9.6 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-(4-(Trifluoromethyl)benzyl)-5-benzyl-7,8-bis(4-chlorophenyl)-6-methyl-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 2 mg, 11% | FC(C1=CC=C(CN2N=C3N(N(C(C(=C3C3=CC=C(C=C3)Cl)C3=CC=C(C=C3)Cl)C)CC3=CC=CC=C3)C2=O)C=C1)(F)F | C33H25Cl2F3N4O
